US04866064
Into a solution of 8.6 g of the thus obtained 7-iodo-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5one, 11 g of triethylamine, 0.15 g of bis(triphenylphosphine)palladium(II) chloride, 0.04 g of cuprous iodide and 33 ml of tetrahydrofurane, 2.6 g of 1-propyne was introduced through a bubbling glass tube under ice-cold-water chilling and constant stirring over a 1 hour period. Thereafter, the solution was further stirred at room temperature for 30 minutes, and 0.23 g of bis(triphenylphosphine)palladium(II) chloride and 0.06 g of cuprous iodide were added. The solution was stirred further for 4 hours. Then toluene was added, and the solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in toluene, the solution was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was recrystallized from an ethanol/hexane mixture and thus 3.9 g of 7-(1-propynyl)-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 7-iodo-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5one | IC=1N=C2N(C(C1)=O)N=C(S2)SCCCCCC | C11H14IN3OS2
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofurane | 33 ml | O1CCCC1 | C4H8O
reactant | 1-propyne | 2.6 g | C#CC | C3H4
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.15 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.23 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 7-(1-propynyl)-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 3.9 g, Yield 72% | C(#CC)C=1N=C2N(C(C1)=O)N=C(S2)SCCCCCC | C14H17N3OS2
